US06610688B2
Synthesis of 4-(3-Chloro-4-fluoro-phenylamino)-5-[3,5-dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one Hydrochloride (Formula 7)
The title compound (10% yield) was prepared from 4-chloro-5-[3,5-dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one and 3-chloro-4-fluoro-phenylamine according to the procedure described for Example 12.

reactant | 4-chloro-5-[3,5-dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-d]pyrimidin-6-one | ClC=1C2=C(N=CN1)NC(C2=CC=2NC(=C(C2C)CCCN2CCOCC2)C)=O | C20H24ClN5O2
reactant | 3-chloro-4-fluoro-phenylamine | ClC=1C=C(C=CC1F)N | C6H5ClFN
product | 4-(3-Chloro-4-fluoro-phenylamino)-5-[3,5-dimethyl-4-(3-morpholin-4-yl-propyl)-1H-pyrrol-2-ylmethylene]-5,7-dihydro-pyrrolo[2,3-D]pyrimidin-6-one Hydrochloride | 10% yield | Cl.ClC=1C=C(C=CC1F)NC=1C2=C(N=CN1)NC(C2=CC=2NC(=C(C2C)CCCN2CCOCC2)C)=O | InChI=1S/C26H28ClFN6O2.ClH/c1-15-18(4-3-7-34-8-10-36-11-9-34)16(2)31-22(15)13-19-23-24(29-14-30-25(23)33-26(19)35)32-17-5-6-21(28)20(27)12-17;/h5-6,12-14,31H,3-4,7-11H2,1-2H3,(H2,29,30,32,33,35);1H
